US07981903B2
2-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide (146 mg, 0.208 mmol) was dissolved in dioxane (3 mL) and 2N NaOH (2 mL) was added in a microwave safe vessel. The reaction was then heated in a microwave at 120° C. for 10 min. Reaction was diluted with EtOAc and the organic layer was washed with water and a saturated brine solution and dried over sodium sulfate. Solvents were removed under reduced pressure and the residue purified by chromatography on SiO2 to afford 2-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide (89 mg, 0.163 mmol) as a pink solid. 1 H NMR (400 MHz, DMSO-d6) δ ppm 1.81-1.92 (m, 2 H) 2.10 (br. s., 6 H) 2.42 (s, 3 H) 2.67 (br. s., 2 H) 3.20 (s, 2 H) 3.66-3.74 (m, 2 H) 3.84 (s, 3 H) 6.74 (s, 1 H) 6.79-6.86 (m, 1 H) 6.86-6.96 (m, 1 H) 7.31-7.40 (m, 1 H) 7.42 (s, 1 H) 8.12 (d, J=14.92 Hz, 2 H) 8.40 (d, J=8.61 Hz, 2 H) 9.88 (s, 1 H) 10.99-11.11 (m, 1 H). ESIMS (M+H)+=547

reactant | 2-({2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 0.208 mmol, 146 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2C)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C | C35H37FN8O5S
reactant | NaOH | 2N, 2 mL | [OH-].[Na+]
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 2-[(2-{[1-(N,N-dimethylglycyl)-6-(methyloxy)-1,2,3,4-tetrahydro-7-quinolinyl]amino}-5-methyl-1H-pyrrolo[2,3-d]pyrimidin-4-yl)amino]-6-fluorobenzamide | 0.163 mmol, 89 mg | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC1=NC(=C2C(N1)=NC=C2C)NC2=C(C(=O)N)C(=CC=C2)F)OC)C | C28H31FN8O3
